US06653508B2
28 g (0.12 mole) of 1-(3-methoxyphenyl)-3-phenylpropan-1-one were dissolved in 200 ml of acetonitrile, following which 11.3 g (0.12 mole) of the iminium salt of paraformaldehyde and dimethylamine hydrochloride were added under a nitrogen atmosphere. The reaction mixture was then heated for one hour at 60° C. and afterwards cooled to 20° C. The product partially precipitates on stirring overnight. The solvent was removed in vacuo and the crude product was dissolved in water. Sodium bicarbonate was added to the aqueous solution until the pH was 8 and the solution was then extracted three times with ether. The ether extracts were combined, dried over sodium sulfate and the ether was distilled off. The (2RS)-2-benzyl-3-dimethylamino-1-(3-methoxyphenyl)-propan-1-one was dissolved in 100 ml of methyl ethyl ketone and ethereal HCl solution was added until the pH was 1. The resultant precipitate was suction filtered, washed with ether and dried in vacuo; 2-benzyl-3-dimethylamino-1-(3-methoxyphenyl)-propan-1-one hydrochloride was obtained in a yield of 33.0 g (83%) with a melting point of 130° C.

reactant | 1-(3-methoxyphenyl)-3-phenylpropan-1-one | 0.12 mole, 28 g | COC=1C=C(C=CC1)C(CCC1=CC=CC=C1)=O | C16H16O2
reactant | paraformaldehyde | C=O | CH2O
reactant | dimethylamine hydrochloride | Cl.CNC
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-benzyl-3-dimethylamino-1-(3-methoxyphenyl)-propan-1-one hydrochloride | Cl.C(C1=CC=CC=C1)C(C(=O)C1=CC(=CC=C1)OC)CN(C)C | InChI=1S/C19H23NO2.ClH/c1-20(2)14-17(12-15-8-5-4-6-9-15)19(21)16-10-7-11-18(13-16)22-3;/h4-11,13,17H,12,14H2,1-3H3;1H
